US09428490B2
tert-Butyl 6-amino-3-azabicyclo[3.1.0]hexane-3-carboxylate (1 g, 1.0 eq.) was added to a solution of sodium bicarbonate (0.84 g, 2.0 eq.) in water (5 ml) at 5° C. FMOC—Cl (1.56 g, 1.2 eq.) in 1,4-dioxane (10 ml) was added dropwise. The reaction mixture was stirred at room temperature for 3 h, transferred into iced water (50 mL), and extracted with EtOAc (2×100 mL). The combined organic layers was washed with brine (2×50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure (25° C., 20 mmHg) to afford 1.9 g of tert-butyl 6-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-azabicyclo[3.1.0]hexane-3-carboxylate (yield 90%).

reactant | tert-Butyl 6-amino-3-azabicyclo[3.1.0]hexane-3-carboxylate | 1 g, 1.0 eq. | NC1C2CN(CC12)C(=O)OC(C)(C)C | C10H18N2O2
reactant | sodium bicarbonate | 0.84 g, 2.0 eq. | C([O-])(O)=O.[Na+]
reactant | FMOC—Cl | 1.56 g, 1.2 eq. | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | water | 5 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | tert-butyl 6-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-azabicyclo[3.1.0]hexane-3-carboxylate | 1.9 g, yield 90% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1C2CN(CC12)C(=O)OC(C)(C)C | C25H28N2O4
